US04391800
To a solution of benzyl 2-acetamido-4-O-(2-acetamido-2-deoxy-β-D-glucopyranosyl)-3-O-allyl-6-O-benzyl-2-deoxy-α-D-glucopyranoside (624 mg, 0.97 mmol) in N,N-dimethylformamide (15 ml) are added barium oxide (670 mg), barium hydroxide octahydrate (223 mg), and benzyl bromide (1.04 ml, 8.74 mmol). The reaction mixture is stirred for 20 hours at room temperature at which time additional barium oxide (335 mg), barium hydroxide octahydrate (112 mg) and benzyl bromide (0.52 ml) are added. Stirring is continued for 24 hours at room temperature. The reaction mixture is then diluted with chloroform (100 ml), washed successively with 60% aqueous acetic acid, saturated sodium bicarbonate, and water, dried (sodium sulfate), and evaporated. The residue is applied to a column of silica gel (90 g) that is eluted with 4:1 chloroform-ethyl acetate. Combination and evaporation of the appropriate fractions affords benzyl 2-acetamido-4-O-(2-acetamido-3,4,6-tri-O-benzyl-2-deoxy-β-D-glucopyranosyl)-3-O-allyl-6-O-benzyl-2-deoxy-α-D-glucopyranoside as a white solid; yield 612 mg (69%), [α]D25 +58° (c, 1.1, chloroform). The 300 MHz nmr spectrum in chloroform-d is in accord with the desired structure.

reactant | benzyl 2-acetamido-4-O-(2-acetamido-2-deoxy-β-D-glucopyranosyl)-3-O-allyl-6-O-benzyl-2-deoxy-α-D-glucopyranoside | 0.97 mmol, 624 mg | C(C)(=O)N[C@H]1[C@@H](OCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1OCC=C)O[C@H]1[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CO)NC(C)=O)COCC1=CC=CC=C1 | C33H44N2O11
reactant | barium oxide | 670 mg | [O-2].[Ba+2]
reactant | barium hydroxide octahydrate | 223 mg | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | benzyl bromide | 8.74 mmol, 1.04 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | barium oxide | 335 mg | [O-2].[Ba+2]
reactant | barium hydroxide octahydrate | 112 mg | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | benzyl bromide | 0.52 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | benzyl 2-acetamido-4-O-(2-acetamido-3,4,6-tri-O-benzyl-2-deoxy-β-D-glucopyranosyl)-3-O-allyl-6-O-benzyl-2-deoxy-α-D-glucopyranoside | C(C)(=O)N[C@H]1[C@@H](OCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1OCC=C)O[C@H]1[C@@H]([C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1)NC(C)=O)COCC1=CC=CC=C1 | C54H62N2O11
